data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-c1cnccc1_2-C(C)(C)C_3-C(F)(F)F","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(c1cnccc1)(=O)(C(C)(C)C)","C(C(F)(F)F)(=O)OO"],"products_smiles": ["C(c1cnccc1)(=O)OC(C)(C)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=[OH+])C(C)(C)C","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)([OH])(OOC(=O)C(F)(F)F)C(C)(C)C","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1cnccc1)(=[OH+])OC(C)(C)C","rationale": "A 1,2-shift occurs from the more migratory C(C)(C)C group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(=O)OC(C)(C)C","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-213_1-c2ccccc2_2-c2cccs2_3-Br_4-S(=O)(=O)c2ccc(C)cc2","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccccc2)","C(c2cccs2)=C(Br)(S(=O)(=O)c2ccc(C)cc2)"],"products_smiles": ["C(c2cccs2)1OC1(Br)(S(=O)(=O)c2ccc(C)cc2)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccccc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccccc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(c2cccs2)1OC1(Br)(S(=O)(=O)c2ccc(C)cc2)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
